US07253286B2
N-(2-Chloro-4-((6-cyano-7-((1-methyl-4-piperidyl)methoxy)-4-quinolyl)oxy)phenyl)-N′-cyclopropylurea
After dissolving N-(2-chloro-4-((6-cyano-7-(4-piperidylmethoxy)-4-quinolyl)oxy)phenyl)-N′-cyclopropylurea (540 mg, 0.846 mmol) in tetrahydrofuran (20 ml)-methanol (20 ml), there were added 37% aqueous formaldehyde (1 ml), acetic acid (0.10 ml, 1.69 mmol) and sodium cyanoborohydride (106 mg, 1.69 mmol) at room temperature, and the mixture was stirred for 1 hour. The reaction solution was distributed between ethyl acetate and saturated aqueous sodium bicarbonate, and the organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was distilled off, the residue was suspended in ethyl acetate and diluted with hexane, and the crystals were filtered out and blow-dried to obtain the title compound (282 mg, 0.557 mmol, 65.9%) as white crystals.

reactant | N-(2-chloro-4-((6-cyano-7-(4-piperidylmethoxy)-4-quinolyl)oxy)phenyl)-N′-cyclopropylurea | 0.846 mmol, 540 mg | ClC1=C(C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)C#N)OCC1CCNCC1)NC(=O)NC1CC1 | C26H26ClN5O3
reactant | formaldehyde | 1 ml | C=O | CH2O
reactant | acetic acid | 1.69 mmol, 0.10 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 1.69 mmol, 106 mg | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | methanol | 20 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-Chloro-4-((6-cyano-7-((1-methyl-4-piperidyl)methoxy)-4-quinolyl)oxy)phenyl)-N′-cyclopropylurea | 0.557 mmol, 282 mg, 65.9% | ClC1=C(C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)C#N)OCC1CCN(CC1)C)NC(=O)NC1CC1 | C27H28ClN5O3
